US05082847
To a stirred suspension of 3,4-dihydro-5-hydroxycarbostyril (30 g, 184 mM) in water (300 mL) was added diethylamine (14 g, 191 mM) followed by a 36% solution of formaldehyde in water (300 mL). The mixture was stirred for 5 hours and the resulting precipitate was filtered and washed with ice-water (50 mL) to give 8-diethylaminomethyl-3,4-dihydro-5-hydroxycarbostyril.

reactant | 3,4-dihydro-5-hydroxycarbostyril | 184 mM, 30 g | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
reactant | diethylamine | 191 mM, 14 g | C(C)NCC | C4H11N
reactant | formaldehyde | C=O | CH2O
solvent | water | 300 mL | O | H2O
solvent | water | 300 mL | O | H2O
product | 8-diethylaminomethyl-3,4-dihydro-5-hydroxycarbostyril | C(C)N(CC)CC=1C=CC(=C2CCC(NC12)=O)O | C14H20N2O2
